US07582625B2
(R)-2-[4-(1-hexyloxycarbonylmethyl-piperidin-4-yl)-piperazin-1-yl]-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
Prepared analogously to Example 4d from 934 mg (1.35 mmol) (R)-2-[4-(1-carboxymethyl-piperidin-4-yl)-piperazin-1-yl]-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate and 190 μL (0.11 mmol) 1-hexanol. The reaction solution was combined with 30 mL semisaturated NaHCO3 solution, extracted with 50 mL EtOAc and the organic phase was dried on Na2SO4. After the elimination of the desiccant and solvent the residue was purified by chromatography (silica gel, EtOAc/MeOH/NH3 90:10:1).

reactant | (R)-2-[4-(1-carboxymethyl-piperidin-4-yl)-piperazin-1-yl]-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 1.35 mmol, 934 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCN(CC1)C1CCN(CC1)CC(=O)O)CC1=CC(=C(C(=C1)C)O)C)C=CC=C2 | C37H50N6O7
reactant | 1-hexanol | 0.11 mmol, 190 μL | C(CCCCC)O | C6H14O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | (R)-2-[4-(1-hexyloxycarbonylmethyl-piperidin-4-yl)-piperazin-1-yl]-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCN(CC1)C1CCN(CC1)CC(=O)OCCCCCC)CC1=CC(=C(C(=C1)C)O)C)C=CC=C2 | C43H62N6O7
